US08669229B2
N-methylmorpholine (0.31 ml, 2.8 mmol) was added dropwise to an acetic acid (0.32 ml, 5.6 mmol) solution of 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-chloroethoxycarbonyl)methylamino]acetate (0.35 g, 0.56 mmol) under cooling with ice, and the mixture was stirred at room temperature for two days. Water was added to the reaction mixture, and then the resulted precipitates were collected by filtration and air-dried. The dried product was purified by silica gel chromatography (n-hexane:ethyl acetate) to obtain 0.26 g (72%) of 7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-acetoxy-ethoxycarbonyl)methylamino]acetate as amorphous.

reactant | N-methylmorpholine | 2.8 mmol, 0.31 ml | CN1CCOCC1 | C5H11NO
reactant | acetic acid | 5.6 mmol, 0.32 ml | C(C)(=O)O | C2H4O2
reactant | 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-chloroethoxycarbonyl)methylamino]acetate | 0.56 mmol, 0.35 g | ClC(C)OC(=O)CNCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C32H33Cl2N3O6
solvent | Water | O | H2O
product | 7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl [(1-acetoxy-ethoxycarbonyl)methylamino]acetate | 0.26 g, 72% | C(C)(=O)OC(C)OC(=O)CNCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C34H36ClN3O8
